US07232834B2
1.58 cm3 of a thionyl chloride solution are added, at a temperature in the region of 20° C., under an argon atmosphere, to 3.33 g (7.23 mmol) of (3R,4R)-1-tertbutyloxycarbonyl-4-[3-(3-fluoro-6-methoxyquinolin-4-yl)-3-oxopropyl]piperidine-3-carboxylic acid in solution in 150 cm3 of dichloromethane. After stirring for 1 hour at a temperature in the region of 20° C., the reaction mixture is poured over a solution of 10.55 cm3 of N,N-diisopropylethylamine in 150 cm3 of methanol. After stirring for 16 hours at a temperature in the region of 20° C., the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa). The residue is taken up with 150 cm3 of CH2Cl2, and washed with 3 times 50 cm3 of water and then 50 cm3 of a saturated aqueous sodium chloride solution. The organic phase is dried over anhydrous magnesium sulfate, filtered, and concentrated to dryness under reduced pressure (2.7 kPa) to give 4 g of methyl (3R,4R)-1-tert-butyloxycarbonyl-4-[3-(3-fluoro-6-methoxyquinolin-4-yl)-3-oxopropyl]piperidine-3-carboxylate in the form of an orange oil.

reactant | thionyl chloride | 1.58 cm3 | S(=O)(Cl)Cl | Cl2OS
reactant | (3R,4R)-1-tertbutyloxycarbonyl-4-[3-(3-fluoro-6-methoxyquinolin-4-yl)-3-oxopropyl]piperidine-3-carboxylic acid | 7.23 mmol, 3.33 g | C(C)(C)(C)OC(=O)N1C[C@@H]([C@@H](CC1)CCC(=O)C1=C(C=NC2=CC=C(C=C12)OC)F)C(=O)O | C24H29FN2O6
reactant | N,N-diisopropylethylamine | 10.55 cm3 | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 150 cm3 | ClCCl | CH2Cl2
solvent | methanol | 150 cm3 | CO | CH4O
product | methyl (3R,4R)-1-tert-butyloxycarbonyl-4-[3-(3-fluoro-6-methoxyquinolin-4-yl)-3-oxopropyl]piperidine-3-carboxylate | 4 g | C(C)(C)(C)OC(=O)N1C[C@@H]([C@@H](CC1)CCC(=O)C1=C(C=NC2=CC=C(C=C12)OC)F)C(=O)OC | C25H31FN2O6
